US04002759
(a) Reaction of 3-amino-2-(4-aminobutyl)pyridine with sodium nitrite/hydrochloric acid and treatment of the resultant diazonium salt with cuprous chloride yields 3-chloro-2-(4-aminobutyl)pyridine. By a similar procedure employing cuprous bromide and hydrobromic acid 3-bromo-2-(4-aminobutyl)pyridine may be produced and when the diazonium salt is treated with sulphuric acid the product is 3-hydroxy-2-(4-aminobutyl)pyridine.

reactant | 3-amino-2-(4-aminobutyl)pyridine | NC=1C(=NC=CC1)CCCCN | C9H15N3
reactant | sodium nitrite hydrochloric acid | N(=O)[O-].[Na+].Cl
product | 3-chloro-2-(4-aminobutyl)pyridine | ClC=1C(=NC=CC1)CCCCN | C9H13ClN2
